Name:  ___      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
R breast pain
 
Major Surgical or Invasive Procedure:
US-guided drainage of R breast abscess

 
History of Present Illness:
___ G2P1 postpartum week 5 with mastitis c/b failed
outpatient management. She initially had bilateral breast pain
c/w engorgement, then had focal erythema and tenderness of the R
breast on ___ and was started on dicloxicillin. She 
regularly
took dicloxicillin q6, pumped q20mins, used hotpacks, and other
breast care, however her symptoms have not improved. Today she
states she has had systemic signs of infection including fevers
up to 101.7, chills, sweating, rigors. She denies focal symptoms
of the L breast, however her R breast continues to have erythema
and increased size of the palpable tender area. 

Denies dysuria, abnormal discharge, ___ edema/tenderness, HA,
blurry vision
 
Past Medical History:
migraines, hypothyroidism, asthma (intubation as child,
usually has x1 severe outbreak qyear)
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
T: 99.0
HR: 83
BP: 107/67
RR: 16
O2: 98%

Gen: A&O, comfortable
CV: RRR
PULM: CTAB, nonlabored breathing
Breast: L breast without erythema, soft, appropriately tender to
palpation, R breast with focal area of 7cm erythema in 9PM
position, palpable mass ~10cm fluctuant under area of erythema,
tenderness to palpation
Abd: soft, nontender
Ext: no calf tenderness
 
Pertinent Results:
___ 08:55PM   WBC-11.1* RBC-4.11 HGB-12.4 HCT-37.4 MCV-91 
MCH-30.2 MCHC-33.2 RDW-11.5 RDWSD-38.5
___ 08:55PM   NEUTS-65.2 ___ MONOS-6.7 EOS-2.1 
BASOS-0.3 IM ___ AbsNeut-7.25* AbsLymp-2.79 AbsMono-0.74 
AbsEos-0.23 AbsBaso-0.03
___ 08:55PM   PLT COUNT-289
 
Brief Hospital Course:
Ms. ___ is a ___ G2P1 who presented with 
persistent R breast pain after failed outpatient management for 
mastitis. Breast milk cultures were collected. The breast was 
imaged by ultrasound showing multiple fluid collections with 
concern for abscesses. She was started on IV vancomycin and 
continued breast care including pumping, massage, and hot/cold 
packs. Breast surgery was consulted and conducted an ultrasound 
guided breast cyst aspiration and sent for culture showing 
polymorphonuclear leukocytes and gram positive cocci in pairs 
and singly. She was afebrile throughout her admission, the area 
of erythema and tenderness improved, and was transitioned to PO 
antibiotics. She was scheduled for 1 week follow up with Breast 
clinic and routine 6 week postpartum follow up. 
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild NOT relieved by 
Ibuprofen 
Do not take more than 4000mg in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*30 Tablet Refills:*0 
2.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
Take with food. Do not take more than 2400mg in 24 hours 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*30 Tablet Refills:*0 
3.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 14 Days 
Please take as prescribed; please finish the entire course. 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth two times a day Disp #*28 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Breast Abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You came in with a breast infection which was drained by the 
Breast Surgery specialists. Because you no longer have fevers 
and your pain is well-controlled, we believe that you are now 
well enough to go home. Please adhere to the following 
instructions. 

- Continue using warm packs and cold packs on your breasts.
- It is safe to continue breastfeeding after your infection and 
while you are using antibiotics. Please continue to do so.
- Continue pumping/breast massage every 20 minutes.
- Please take your entire course of antibiotics as prescribed.
- You may take tylenol and ibuprofen for pain/discomfort.
- Do not take more than 4000mg acetaminophen (Tylenol) in 24 
hrs.
- Do not take more than 2400mg ibuprofen (Motrin) in 24 hrs.
- The breast surgery team will see you for a follow-up appt in 1 
week, please call to schedule an appt ___ breast clinic 
___.
- Please call or return sooner if symptoms worsen or if you 
experience any of the danger signs listed below.

 
Followup Instructions:
___